US07645753B2
3-Amino-5-ethoxy-4-iodo-benzaldehyde
To a solution of (3-amino-5-ethoxy-4-iodo-phenyl)-methanol (4.9 g, 16.72 mmol, 1.0 equiv) in dichloromethane (100 mL) was added activated MnO2 (7.27 g, 83.59 mmol, 5.0 equiv) and the reaction mixture heated to reflux for 3 h. Filtration through Hyflo Super Cel, concentration by evaporation under reduced pressure and purification with column chromatography on silica eluting with hexane/ethyl acetate (3:1) yielded 3.14 g (60%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.37 (t, J=7.0 Hz, 3H), 4.15 (q, J=7.0 Hz, 2H), 4.49 (d, J=5.6 Hz, 2H), 5.21 (t, J=5.6 Hz, 1H), 6.82 (s, 1H), 6.85 (s, 1H), 11.64 (br s, 1H). 13C NMR (75 MHz, DMSO): δ 14.61, 62.89, 64.26, 100.74, 106.46, 117.80, 137.50, 142.74, 144.05, 154.54. MS (ISP): 291.9 [M+H]+.

reactant | (3-amino-5-ethoxy-4-iodo-phenyl)-methanol | 16.72 mmol, 4.9 g, 1.0 equiv | NC=1C=C(C=C(C1I)OCC)CO | C9H12INO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 83.59 mmol, 7.27 g, 5.0 equiv | O=[Mn]=O
product | 3-Amino-5-ethoxy-4-iodo-benzaldehyde | 3.14 g, 60% | NC=1C=C(C=O)C=C(C1I)OCC | C9H10INO2
